US08110579B2
Add 2 g (14.5 mmol) of K2CO3 and 1.16 mL (14.5 mmol) of iodoethane to a solution of 2.45 g (9.6 mmol) of 4-chloro-3-iodophenol in 30 mL of DMF. Heat the reaction mixture at 50° C. while stirring for 3 h, then distribute in 200 mL of ether/water 1:1 mixture. Wash the organic phase with 3×50 mL of water then dry over Na2SO4 and concentrate under reduced pressure. We obtain 2.38 g of 1-chloro-2-iodo-4-ethoxybenzene in the form of oil.

reactant | K2CO3 | 14.5 mmol, 2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodoethane | 14.5 mmol, 1.16 mL | ICC | C2H5I
reactant | 4-chloro-3-iodophenol | 9.6 mmol, 2.45 g | ClC1=C(C=C(C=C1)O)I | C6H4ClIO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | ether water | 200 mL | CCOCC.O
product | 1-chloro-2-iodo-4-ethoxybenzene | 2.38 g, Yield=87% | ClC1=C(C=C(C=C1)OCC)I | C8H8ClIO
